* Stage 1: PB-3 architecture sizing model. Decides topology/values BEFORE
* the schematic is drawn. It is not a verification of the KiCad circuit in
* pb3-replacement.kicad_sch/.kicad_pcb - see kicad/README.adoc for Stage 2,
* the schematic-derived simulation that actually checks the real design.
* This is a behavioral model, not a substitute for vendor SPICE models.
* Nominal values follow pb3-notes.adoc: 1S LiPo, 2.0 V output, 500 mAh cell.

.param RLOAD=10

VUSB USB 0 5
RUSB USB VBUS 0.5

* TP4056 and 1S LiPo approximation at the nominal 3.7 V operating point.
* The 2.6 ohm path limits USB charging to about 500 mA.
VBAT BAT 0 3.7
RCHARGE VBUS BAT 2.6
RBAT BAT BMS 0.08

* DW01A/FS8205A protection approximation at the nominal operating point.
* UV/OV cutoff thresholds require a vendor model and are not asserted here.
RBMS BMS VIN 0.03

* Idealized TPS61023 buck set to 2.0 V with 100 mV source resistance.
BBUCK VRAW 0 V=(V(BMS)>2.7) ? 2.0 : 0
RBUCK VRAW VOUT 0.1

* Deck load: 200 mA at 2.0 V.
RDECK VOUT 0 {RLOAD}

* OVP clamp approximation. It is inactive at the 2.0 V target.
BOVP VOUT 0 I=(V(VOUT)>2.7) ? (V(VOUT)-2.7)/0.05 : 0

.tran 1m 10
.meas tran vout_avg AVG V(VOUT) FROM=5 TO=10
.meas tran vout_min MIN V(VOUT) FROM=5 TO=10
.meas tran vout_max MAX V(VOUT) FROM=5 TO=10
.meas tran vbat FIND V(BAT) AT=10
.meas tran load_current PARAM='vout_avg/RLOAD'
.end
